US09062028B2
Step D. 2-(2,3-Dimethylphenoxy)ethyl 5-bromo-3,4-dihydroquinoline-1(2H)-carboxylate
A mixture of 5-bromo-3,4-dihydroquinoline-1(2H)-carbonyl chloride (0.05 g, 0.182 mmol), 2-(2,3-dimethylphenoxy)ethanol (0.038 g, 0.228 mmol) and TEA (0.076 mL, 0.546 mmol) in DCM (1.5 mL) was stirred at room temperature for 16 h. To the mixture was then added potassium tert-butoxide (1 M in THF, 0.364 mL, 0.364 mmol) and the resulting mixture was stirred at room temperature for 24 h before being quenched with water. The organic layer was separated and the aqueous phase was extracted with DCM. The combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo to provide the crude material. The crude material was purified by flash chromatography (0-50% ethyl acetate/hexanes) to afford the title compound (51 mg, 69.3% yield). LCMS, [M+Na]+=427.9.

reactant | 5-bromo-3,4-dihydroquinoline-1(2H)-carbonyl chloride | 0.182 mmol, 0.05 g | BrC1=C2CCCN(C2=CC=C1)C(=O)Cl | C10H9BrClNO
reactant | 2-(2,3-dimethylphenoxy)ethanol | 0.228 mmol, 0.038 g | CC1=C(OCCO)C=CC=C1C | C10H14O2
reactant | potassium tert-butoxide | 0.364 mmol, 1 M, 0.364 mL | CC(C)([O-])C.[K+]
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,3-Dimethylphenoxy)ethyl 5-bromo-3,4-dihydroquinoline-1(2H)-carboxylate | 51 mg, 69.3% yield | BrC1=C2CCCN(C2=CC=C1)C(=O)OCCOC1=C(C(=CC=C1)C)C | C20H22BrNO3
